US07419984B2
A mixture of 3-(5-chloro-2-methoxy-phenyl)-3-oxopropionic acid ethyl ester (0.9 g, 3.2 mmol), acetamidine hydrochloride (448 mg, 4.7 mmol) and potassium carbonate (1.3 g, 9.6 mmol) in ethanol (15 ml) was stirred at 100° C. in thick wall tube for 60 hours. After cooling to room temperature, the mixture was poured into ice cold water. The solid was collected by filtration, washed with water and ether and dried under vacuum to provide 6-(5-chloro-2-methoxy-phenyl)-2-methyl-3H-pyrimidin-4-one (530 mg, 68% yield) as a white powder. 1H NMR (DMSO-d6) δ 2.32 (s, 3H, CH3), 3.85 (s, 3H, CH3), 6.77 (s, 1H, CH, Ar), 7.15 (d, 1H, J=8.8 Hz, Ar), 7.45 (dd, 1H, J=8.8 Hz, J=2.9 Hz, Ar), 7.90 (d, 1H, J=2.9 Hz, Ar), 12.42 (s, 1H, NH).

reactant | 3-(5-chloro-2-methoxy-phenyl)-3-oxopropionic acid ethyl ester | 3.2 mmol, 0.9 g | C(C)OC(CC(=O)C1=C(C=CC(=C1)Cl)OC)=O | C12H13ClO4
reactant | acetamidine hydrochloride | 4.7 mmol, 448 mg | Cl.C(C)(=N)N
reactant | potassium carbonate | 9.6 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 6-(5-chloro-2-methoxy-phenyl)-2-methyl-3H-pyrimidin-4-one | 530 mg, 68% yield | ClC=1C=CC(=C(C1)C1=CC(NC(=N1)C)=O)OC | C12H11ClN2O2
